US04284631
a suspension of ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate hydrochloride (syn isomer, 16.9 g.) in a mixture of water (170 ml.) and ethyl acetate (200 ml.) was adjusted to pH 6.5 with sodium bicarbonate and the ethyl acetate layer was separated. The aqueous layer was extracted with ethyl acetate (100 ml.), and the exacts were combined together, washed with a saturated aqueous solution of sodium chloride, dried and then concentrated in vacuo. The oily residue was triturated with n-hexane. The precipitates were collected by filtration and washed with n-hexane to give ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate (syn isomer, 13 g.).

reactant | ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate hydrochloride | 16.9 g | Cl.NC=1SC=C(N1)C(C(=O)OCC)=NOCCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 170 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate | 13 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCOCC | C11H17N3O4S
